US05677316
(2) (S)-7-(3-Aminomethyl-3-fluoromethylpyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
(S)-1-Cyclopropyl-7-(3-(N,N-dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (19.58 g) was dissolved in ethanol (300 ml), and 10% palladium-carbon (3.9 g) and hydrazine hydrate (5.0 g) were added. The mixture was refluxed with stirring for 4 hours. The precipitated crystals were dissolved in a 2N aqueous solution of sodium hydroxide. The mixture was filtrated to remove the catalyst. After concentration, water (100 ml) was added and the pH of the solution was adjusted to 7 with dilute hydrochloric acid. The precipitated crystals were collected by filtration to give the object compound, melting point 188°-190° C.

reactant | (S)-1-Cyclopropyl-7-(3-(N,N-dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 19.58 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1C[C@@](CC1)(CF)CN(CC1=CC=CC=C1)CC1=CC=CC=C1)F)=O)C(=O)O | C34H35F2N3O4
reactant | hydrazine hydrate | 5.0 g | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
catalyst | palladium-carbon | 3.9 g | [C].[Pd]
product | (S)-7-(3-Aminomethyl-3-fluoromethylpyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | NC[C@@]1(CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F)CF | C20H23F2N3O4
